datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]1([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]1([H:24])[H:25])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]1([H:15])[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]1([H:24])[H:25])([H:13])[H:14])([H:11])[H:12])([H:9])([H:10])[H:16],62.872968
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3](=[S:4])[H:11])([H:5])([H:6])[H:7].[S:12]=[C:13]([S:14][H:16])[H:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3](=[S:4])[H:11])[H:16])([H:5])([H:6])[H:7].[S:12]=[C:13]([S:14])[H:15],45.1872
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[H:19]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[H:19],4.3932
[C:0]([C:1]#[C:2][C:3]([H:7])([H:8])[H:9])([H:4])([H:5])[H:6].[H:10]>>[C:0]([C:1]#[C:2][C:3]([H:7])([H:8])[H:9])([H:5])[H:6].[H:4][H:10],10.41816
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])=[C:7]([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])([H:15])[H:16])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([H:14])[C:3]([H:15])([H:16])[C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])[C:7]1([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])[H:13])([H:11])[H:12],165.226
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([C:9](=[C:10]([H:23])[H:24])[H:22])=[C:11]([C:12]([H:25])([H:26])[H:27])[c:13]1[c:14]([H:28])[c:15]([H:29])[c:16]([H:30])[c:17]([H:31])[c:18]1[H:32])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7](=[C:6]([H:19])[H:20])[H:21])([C:9](=[C:10]([H:23])[H:24])[H:22])[C:11]([C:12]([H:25])([H:26])[H:27])[c:13]1[c:14]([H:28])[c:15]([H:29])[c:16]([H:30])[c:17]([H:31])[c:18]1[H:32])[H:3],43.4718
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6]([O:7])([H:8])([H:9])[H:10]>>[C:0]([O:1][O:7][C:6]([H:8])([H:9])[H:10])([H:2])([H:3])[H:4].[H:5],299.373
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[c:9]1[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]1[H:19]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][c:9]1[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]1[H:19],-23.012
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])([H:6])[H:7])([H:4])[H:5].[O:13][H:14]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][O:13][H:14],0.0
[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([C:6]([H:15])([H:16])[H:17])[C:7]([H:18])([H:19])[H:20])[H:14])[H:13])([H:11])[H:12])[H:10])([H:8])[H:9]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])=[C:4]([H:14])[C:5]1([C:6]([H:15])([H:16])[H:17])[C:7]([H:18])([H:19])[H:20])([H:8])[H:9],90.7928
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([c:8]1[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]1[H:21])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:6]([C:7]([c:8]1[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]1[H:21])[H:16])([H:14])[H:15])[H:3],33.4302
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][O:18]>>[C:0]([C:1]([C:2]([C:3]([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[H:11][O:17][O:18],220.9152
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9]([C:10]([c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25])[H:20])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:10]([C:9]([H:17])([H:18])[H:19])([c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25])[H:20],60.3584
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])([H:11])[C:19]([C:18]([H:22])([H:23])[H:24])([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])[H:10])([H:8])[H:9],-2.25936
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10]([C:11]([H:18])([H:19])[H:20])=[C:12]([C:13]([H:21])([H:22])[H:23])[C:14]([H:24])([H:25])[H:26])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:10]([C:9]([H:15])([H:16])[H:17])([C:11]([H:18])([H:19])[H:20])[C:12]([C:13]([H:21])([H:22])[H:23])[C:14]([H:24])([H:25])[H:26])[H:4],44.3504
